US08114877B2
b) (1R,2S,3R,5S)-3-[2-((R)-3-Amino-pyrrolidin-1-yl)-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-5-(4-ethyl-pyrazol-1-yl)-cyclopentane-1,2-diol
((R)-1-{6-(2,2-diphenyl-ethylamino)-9-[(1R,2S,3R,4S)-4-(4-ethyl-pyrazol-1-yl)-2,3-dihydroxy-cyclopentyl]-9H-purin-2-yl}-pyrrolidin-3-yl)-carbamic acid tert-butyl ester (first step a) (9.75 g, 14 mmol) is dissolved in methanol (2 ml). (4M) HCl in 1,4-dioxane (15 ml) is added and the reaction mixture is stirred at room temperature over night. The compound is purified by reverse phase column chromatography (Isolute™ C18, 0-100% MeCN in water—0.1% HCl). The compound is partitioned between DCM and saturated NaHCO3(aq). The organics are dried (MgSO4), filtered and reduced in vacuo to yield the title compound. MS (ES+) m/e 594.31 (MH+).

reactant | ((R)-1-{6-(2,2-diphenyl-ethylamino)-9-[(1R,2S,3R,4S)-4-(4-ethyl-pyrazol-1-yl)-2,3-dihydroxy-cyclopentyl]-9H-purin-2-yl}-pyrrolidin-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1CN(CC1)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)N1N=CC(=C1)CC)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C38H47N9O4
reactant | HCl | 4M | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | 1,4-dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | (1R,2S,3R,5S)-3-[2-((R)-3-Amino-pyrrolidin-1-yl)-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-5-(4-ethyl-pyrazol-1-yl)-cyclopentane-1,2-diol | N[C@H]1CN(CC1)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)N1N=CC(=C1)CC)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C33H39N9O2
